US04443443
To a solution of potassium hydroxide (6.3 g) in methanol (40 ml) was added 3-(4-allyl-1-piperazinyl)propylamine (18.8 g) and thereto was added carbon disulfide (7.8 g) under ice cooling over a period of 10 minutes. The resulting mixture was stirred for 2 hours under ice cooling. The reaction mixture was evaporated under reduced pressure. The residual oil was dissolved in water and washed with diethyl ether. The washed aqueous layer was ice-cooled and thereto was added methyl iodide (14.6 g) with stirring. The resulting mixture was stirred for 2 hours under ice-cooling. The reaction mixture was extracted with ethyl acetate, the extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then evaporated under reduced pressure to give an oil of methyl N-[3-(4-allyl-1-piperazinyl)propyl]dithiocarbamate (17.7 g).

reactant | potassium hydroxide | 6.3 g | [OH-].[K+]
reactant | 3-(4-allyl-1-piperazinyl)propylamine | 18.8 g | C(C=C)N1CCN(CC1)CCCN | C10H21N3
reactant | carbon disulfide | 7.8 g | C(=S)=S | CS2
reactant | methanol | 40 ml | CO | CH4O
product | methyl N-[3-(4-allyl-1-piperazinyl)propyl]dithiocarbamate | 17.7 g | C(C=C)N1CCN(CC1)CCCNC(SC)=S | C12H23N3S2
